US06727264B1
ETHYL 4-({4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}METHYL)-2,5-DIMETHYL-1-PHENYL-1H-PYRROLE-3-CARBOXYLATE:
Prepared by Procedure F and Scheme R using ethyl 4-formyl-2,5-dimethyl-1-phenyl-1H-pyrrole-3-carboxylate and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 502.2 (M+H)+.

reactant | ethyl 4-formyl-2,5-dimethyl-1-phenyl-1H-pyrrole-3-carboxylate | C(=O)C=1C(=C(N(C1C)C1=CC=CC=C1)C)C(=O)OCC | C16H17NO3
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | ETHYL 4-({4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}METHYL)-2,5-DIMETHYL-1-PHENYL-1H-PYRROLE-3-CARBOXYLATE | C(C(C)C)(=O)NC=1C=C(C=CC1)C1CCN(CC1)CC=1C(=C(N(C1C)C1=CC=CC=C1)C)C(=O)OCC | C31H39N3O3
